US06288120B1
(3-{[Methanesulfonyl-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester.
A solution of ({3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (0.045 g, 0.109 mmol), triethylamine (16.8 mL, 0.120 mmol) and methanesulfonyl chloride (8.6 ml, 0.11 mmol) in 2 mL CH2Cl2 was stirred at room temperature for 2 hours. The reaction was quenched with water. The aqueous solution was washed with CH2Cl2 and the organic solution was dried over Na2SO4, filtered, and concentrated. The product was purified via flash chromatography on silica gel (1/1 EtOAc/Hexanes) to afford the title compound of Step B as a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.97 (d, 2H), 7.85 (s, 1H), 7.35 (m, 3H), 7.32 (m, 1H), 6.80-6.90 (m, 3H), 4.48 (s, 2H), 4.36 (s, 2H), 4.29 (s, 2H), 2.79 (s, 3H), 1.47 (s, 9H); MS 489 (M+1).

reactant | {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.109 mmol, 0.045 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
reactant | triethylamine | 0.120 mmol, 16.8 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.11 mmol, 8.6 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3-{[Methanesulfonyl-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C)=O | C24H28N2O5S2
